2191-04-24 05:53:00 Physician Resident Progress Note
Chief Complaint: 80 year old male with MS, h/o UGIB, sacral and heel
   pressure ulcers admitted from [**Hospital1 169**] with hypotension, hypoxemia, ARF and
   mental status changes.
   24 Hour Events:
   - Patient with respiratory distress after fluid resuscitation
   - After discussions with HCP, effort changed to comfort care
   - Patient with improved mental status this am with stable BP and O2 sat
   Allergies:
   Prozac (Oral) (Fluoxetine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-24**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 139 (105 - 139) bpm
   BP: 104/53(63) {88/25(44) - 109/55(65)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,250 mL
                  PO:
                  TF:
   IVF:
                                                                  1,250 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    330 mL
   Urine:
                                                                    540 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   Gen: Appears uncomfortable, minimally interactive
   Chest: Coarse BS throughout
   Ext: feet wrapped, 4-5cm oozing heel ulcer on left, healing ulcer on
   right heel.
   Labs / Radiology
   No new
   Assessment and Plan
   80 year old man with hx of multiple sclerosis c/b paraplegia, DM2, PUD,
   agitated depression, and aspiration presenting from nursing home after
   being found unresponsive, hypotensive,  hypoxic, and with evidence of
   GI bleed.
    1)  Shock: Patient was admitted with a lactate of 5.4, bandemia (21
   bands) and signs of end-organ dysfunction (mental status and elevated
   Cr) in setting of likely infection, so sepsis is the most likely
   etiology.  [**Month (only) 60**] also be complicated by a GI bleed as patient has had
   significant UGIB in the past.  Potential sources of infection include
   UTI, pneumonia, infected pressure ulcer given severiety of wound on L
   heel. Patient also at risk for hospital acquired pathogens.  Initially
   started on vanc/zosyn for broad coverage.  Efforts were made at
   aggressive volume resuscitation on admission with compromise of
   patient's respiratory status (increased pulmonary edema and work of
   breathing).  Goals of care discussed at length with patient's HCP, his
   nephew.  [**Name (NI) 53**] would not want intubation or resuscitation.   Given
   his current clinical state, the decision was made to pursue comfort
   care. The patient was started on low morphine.  Patient maintained
   blood pressure and oxygen sat overnight, with persistent sinus
   tachycardia.  Mental status improved this am.  Patient able to
   communicate and vital signs stable. Given clinical improvement,
   discussed pursuing more aggressive treatment within patient
s wishes.
   - Will keep patient DNR/DNI as per his wishes
   - Restart small fluid boluses
   - Recheck labs this am including lactate and legionella urinary antigen
   - Restart Vanc/Zosyn for broad sepsis coverage
   - Recheck bcx, ucx
   - Continue NC and shovel mask, titrate oxygen as needed
   - Will continue close discussions with family
   2) Hypoxia: DDX pneumonia or early ARDS from urosepsis complicated by
   volume resuscitation.  Currrently oxygenating well with NC and shovel
   mask.
   - Continue current management given patient appears to be clinically
   comfortable
   - No intubation, so will bolus fluids carefully
   - Consider CXR today if develops increased hypoxia
   3) Acute blood loss anemia on admission: patient has hx of severe PUD
   with gastritis and visible vessel now with BRBPR and decrease (although
   mild) in Hct.
   - Will trend HCT, transfuse for active bleeding or >30
   4) Altered Mental status: non-focal neuro exam in patient with history
   of agitated depression.
   - Attempt to correct shock as above
   - Patient able to communicate with effort
   5) Acute renal failure: likely pre-renal +/- ATN.
   - Recheck labs this am, fluids prn for sepsis/hypovolemia
   6) Dispo: Continue current management. Close discussions with family
   regarding progression.  Will restart home medications.
   ICU Care
   Nutrition: thickened liquids/puree diet
   Glycemic Control:  adequate
   Lines:
   18 Gauge - [**2191-4-23**] 12:52 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: ICU for now, consider call out

2191-04-24 08:49:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meeting and decision to make him comfort care only
   Has remianed persistently tachycardic
   Allergies:
   Prozac (Oral) (Fluoxetine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2191-4-24**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 125 (105 - 139) bpm
   BP: 93/46(58) {88/25(44) - 121/55(68)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,250 mL
                  PO:
                  TF:
   IVF:
                                                                  1,250 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    440 mL
   Urine:
                                                                    540 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG:
   Physical Examination
   Gen: lying in bed, tachypnic, but speaking
   HEENT: very dry oropharnyx
   CV: tachy RRR
   Chest: fair air movement
   Abd: soft, NT
   Ext: bilat wrapping of feet
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   80 yr old man with hx of multipe sclerosis presents with septic shock
   and possible GI bleed.
   1. Sepsis: Multiple potential etiologies with UTI and PNA most likely
   and possible osteo with bacteremia from left heel abscess - Covered
   broadly with Vanco, Zosyn, pan culture, foley has been changed, foot
   films.
   He is s/p aggressive volume resuscitation complicated by resp distress
 this resp distress has since stabilized and we will resume volume
   repletion
   2. Resp distress: in setting of PNA and likely vasc leak with volume
   resuscitation, he is DNI and breathing has stabilized. Repeat CXR this
   AM and watch carefully as resume hydration.
   3.  ARF: in setting of sepsis and hypovolemia, we are volume
   resusitating, trending UOP, CR pending.
   4. GI bleed: Possible recurrent gastritis, bleeding vessel, ischemia.
   At this point supportive care with blood.
   5. Code: Was CMO at one point yesterday afternoon when severe resp
   distress. Now that he has improved we have discussed with [**Year (4 digits) 2126**] return
   to DNR/DNI status but will resume fluids ABX and continue supportive
   care. Of he worsnes again from a resp status we will readdress.
   ICU Care
   Nutrition: will feed when resp status stable
   Glycemic Control:  SSRI
   Lines:
   18 Gauge - [**2191-4-23**] 12:52 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  with HCP [**Name (NI) **]
   [**Name (NI) 66**] status: DNR / DNI
   Disposition :ICU
   Total time spent: 40

2191-04-25 07:16:00 Physician Resident Progress Note
Chief Complaint: 80 year old male with MS, h/o UGIB, sacral and heel
   pressure ulcers admitted from [**Hospital1 169**] with hypotension, hypoxemia, ARF and
   mental status changes.
   24 Hour Events:
   - Managed to improve during the day.  BP holding steady.  Occasionally
   will become tachycardic but looks like ectopy (PVCs and APCs) - BP
   stable
   - Pan-cultured; all pending.  On broad spectrum abx
   - Ordered for speech and swallow eval as he aspirates with all PO
   Allergies:
   Prozac (Oral) (Fluoxetine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-24**] 11:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-25**] 05:52 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-25**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 121 (96 - 139) bpm
   BP: 115/59(73) {93/39(54) - 124/70(75)} mmHg
   RR: 24 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,433 mL
                                                                    905 mL
   PO:
             TF:
   IVF:
                                                                  1,433 mL
                                                                    905 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    190 mL
   Urine:
                                                                  1,070 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    363 mL
                                                                    715 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Abd: Soft, NTND
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: BS at
   left base), Difficult to assess
   Neuro: AAOx3
   Skin: pressure wounds on B heels, sacral decubitus ulcer
   Labs / Radiology
   289 K/uL
   9.5 g/dL
   173 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.5 mEq/L
   31 mg/dL
   113 mEq/L
   142 mEq/L
   28.5 %
   15.3 K/uL
        [image002.jpg]
                             [**2191-4-24**]  09:32 AM
                             [**2191-4-25**]  04:21 AM
   WBC
   18.8
   15.3
   Hct
   33.1
   28.5
   Plt
   326
   289
   Cr
   1.2
   1.1
   Glucose
   92
   173
   Other labs: Differential-Neuts:88.0 %, Band:7.0 %, Lymph:4.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:7.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   Imaging: CXR [**4-23**]: Left lower lobe retrocardiac opacity concerning for
   infection.
   Microbiology: Urine legionella pending
   Urine cx pending
   Blood cx x6: NGTD
   Assessment and Plan
   80 year old man with hx of multiple sclerosis c/b paraplegia, DM2, PUD,
   agitated depression, and aspiration presenting from nursing home after
   being found unresponsive, hypotensive,  hypoxic, and with evidence of
   GI bleed.
   #  Shock: Patient was admitted with a lactate of 5.4, bandemia (21
   bands) and signs of end-organ dysfunction (mental status and elevated
   Cr) in setting of likely infection, so sepsis is the most likely
   etiology.  [**Month (only) 60**] also be complicated by a GI bleed as patient has had
   significant UGIB in the past.  Potential sources of infection include
   UTI, pneumonia, infected pressure ulcer given severiety of wound on L
   heel. Patient also at risk for hospital acquired pathogens.  Initially
   started on vanc/zosyn for broad coverage.  Efforts were made at
   aggressive volume resuscitation on admission with compromise of
   patient's respiratory status (increased pulmonary edema and work of
   breathing).  Goals of care discussed at length with patient's HCP, his
   nephew.  [**Name (NI) 53**] would not want intubation or resuscitation.   Given
   his clinical state, the decision was made to pursue comfort care. The
   patient was started on low morphine.  Patient maintained blood pressure
   and oxygen sat overnight, with persistent sinus tachycardia.  Mental
   status improved this am.  Patient able to communicate and vital signs
   stable. Given clinical improvement, discussed pursuing more aggressive
   treatment within patient
s wishes.  Patient has been clinically
   improving.
   - DNR/DNI as per his wishes
   - Restarted small fluid boluses, 100cc/hr now s/p 2 L
   - Lactate at 1.9 yesterday down from 5.4, bandemia improving
   - Restarted Vanc/Zosyn for broad sepsis coverage
   - Follow bcx, ucx, legionella urinary ag
   - Will continue close discussions with family
   # Hypoxia: DDX pneumonia or early ARDS from urosepsis complicated by
   volume resuscitation.  Currrently oxygenating well with NC at 2L
   - Continue current management given patient appears to be clinically
   comfortable
   - Continue NC, titrate oxygen as needed
   - No intubation, so will bolus fluids carefully
   - Consider CXR today if develops increased hypoxia
   # Acute blood loss anemia on admission: patient has hx of severe PUD
   with gastritis and visible vessel now with BRBPR and decrease (although
   mild) in Hct.  Per PCP, [**Name10 (NameIs) **]
[**Name Initial (NameIs) **] baseline is 26-28.
   - Down to 28 today though after fluid resuscitation
   - Will trend HCT, transfuse for active bleeding or >26
   - Can consider recheck Hct later today
   # Altered Mental status: non-focal neuro exam in patient with history
   of agitated depression.
   - Correcting shock as above
   - Patient able to communicate with effort
   # Acute renal failure: likely pre-renal +/- ATN. Improved to baseline.
   - Continue fluids prn for sepsis/hypovolemia
   # Tachycardia: Has been in sinus with APCs. Initially persistently in
   the 130s, now down to 110s with fluids. Likely combination of septic
   shock and hypovolemia.
   - Continue current management with gentle IVF to correct underlying
   disorder
   - Continue to monitor on telemetry
   - Can consider ECG during tachycardia
   # Wound care: Significant pressure ulcers
   - Canair bed
   - Wound care consult
   # FEN: Aspirating with PO.
   - Speech and swallow consult
   # Dispo: Continue current management. Close discussions with family
   regarding progression.
   - Will restart home medications
   - Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control: adequate
   Lines:
   18 Gauge - [**2191-4-24**] 05:19 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: [**Hospital1 **] ppi
   VAP: NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Call out to medicine floor

2191-04-25 11:31:00 Physician Attending Progress Note
Chief Complaint: sepsis, GI bleed, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yr old man with hx of multipe sclerosis presents with septic shock
   and possible GI bleed. Resp failure with hydration for resuscitation.
   24 Hour Events:
 BLOOD CULTURED - At [**2191-4-24**] 09:45 AM
 PAN CULTURE - At [**2191-4-24**] 09:45 AM
   PCP said pt back to baseline clinically.
   Speech consult suggested thickened liquid diet.
   Allergies:
   Prozac (Oral) (Fluoxetine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-25**] 05:52 AM
   Vancomycin - [**2191-4-25**] 07:54 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Respiratory: No(t) Cough, No(t) Dyspnea, breathing comfortably
   Gastrointestinal: Abdominal pain, mild,
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2191-4-25**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 110 (90 - 128) bpm
   BP: 122/59(74) {98/39(54) - 132/70(75)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,433 mL
                                                                  1,183 mL
   PO:
             TF:
   IVF:
                                                                  1,433 mL
                                                                  1,183 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    390 mL
   Urine:
                                                                  1,070 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    363 mL
                                                                    793 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, heels wrapped in gauze bandages
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful- UEs, no mvmt LEs,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   289 K/uL
   173 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.5 mEq/L
   31 mg/dL
   113 mEq/L
   142 mEq/L
   28.5 %
   15.3 K/uL
        [image002.jpg]
                             [**2191-4-24**]  09:32 AM
                             [**2191-4-25**]  04:21 AM
   WBC
   18.8
   15.3
   Hct
   33.1
   28.5
   Plt
   326
   289
   Cr
   1.2
   1.1
   Glucose
   92
   173
   Other labs: Differential-Neuts:88.0 %, Band:7.0 %, Lymph:4.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:7.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   80 yr old man with hx of multipe sclerosis presents with septic shock
   and possible GI bleed.
   1. Sepsis: Multiple potential etiologies with UTI and PNA most likely
   and possible osteo with bacteremia from left heel abscess and stage IV
   sacral decub - Covered broadly with Vanco, Zosyn, pending data from pan
   culture, foley has been changed, foot films.
   Clinically improved. He is s/p aggressive volume resuscitation
   complicated by resp distress
 this resp distress has since stabilized
   and we have resumed volume repletion.
   2. Resp distress: in setting of PNA and likely vasc leak with volume
   resuscitation, he is DNI and breathing has stabilized. Watch carefully
   as resume hydration.
   3.  ARF: in setting of sepsis and hypovolemia, s/p volume resusitating.
   Cr improved 1.4--> 1.1.
   4. GI bleed: Possible recurrent gastritis, bleeding vessel, ischemia.
   At this point supportive care with blood. Hct at baseline.
   5. Code: Was CMO Saturday afternoon when severe resp distress. Now that
   he has improved we have discussed with nephew return to DNR/DNI status
   but will resume fluids, ABX and continue supportive care. Of he worsens
   again from a resp status we will readdress.
   ICU Care
   Nutrition: thickened liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2191-4-24**] 05:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor